US20010006969A1
2-Allylamino-4-(1-methyl-2-propenylamino)-6-nitroquinazoline
2-chloro-4-(1-methyl-2-propenylamino)-6-nitroquinazoline was obtained in accordance with the process described in EXAMPLE 62, starting from 278 mg (1.45 mmol) of 6-nitroquinazoline-2,4(1H,3H)-dione. After 1.00 ml (13.33 mmol) of allylamine was added to the compound and the reaction mixture was stirred at room temperature for 3 hours, water was added to the reaction solution, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 75 mg (18.7%) of the title compound.

reactant | 6-nitroquinazoline-2,4(1H,3H)-dione | 1.45 mmol, 278 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | allylamine | 13.33 mmol, 1.00 ml | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-4-(1-methyl-2-propenylamino)-6-nitroquinazoline | 75 mg, 18.7% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NC(C=C)C)[N+](=O)[O-] | C15H17N5O2
